US03992389
1-[2-(p-Acetamidophenyl)ethyl]-4-benzamidopiperidine
1-[2-(p-Aminophenyl)ethyl]-4-benzamidopiperidine (2.3 g.) was refluxed for 2 hours with acetic anhydride (22 ml.) in anhydrous pyridine (100 ml.). The solution was refrigerated for 24 hours and a crystalline product was filtered off, which after washing with ether yielded the title compound, m.p. 270°-275° C (dec.). Found: C, 72.6; N, 7.55; N, 11.6. C22H27N3O2 requires C, 72.3; H, 7.45; N, 11.5%).

reactant | 1-[2-(p-Aminophenyl)ethyl]-4-benzamidopiperidine | 2.3 g | NC1=CC=C(C=C1)CCN1CCC(CC1)NC(C1=CC=CC=C1)=O | C20H25N3O
reactant | acetic anhydride | 22 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 1-[2-(p-Acetamidophenyl)ethyl]-4-benzamidopiperidine | C(C)(=O)NC1=CC=C(C=C1)CCN1CCC(CC1)NC(C1=CC=CC=C1)=O | C22H27N3O2
